Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cefepime / Aztreonam
 
Attending: ___
 
Chief Complaint:
Presyncope
 
Major Surgical or Invasive Procedure:
Intubation - ___
Muscle Biopsy - ___

 
History of Present Illness:
___ y/o F with history of accelerated phase CML s/p sibling allo 
D0 ___ complicated upper and lower GI GVHD ___, liver 
GVHD in setting of reducing immunosuppression ___, GVHD 
related myopathy resulting in weakness and respiratory failure 
___, history of multifocal pneumonia with paecilomyces on 
bronch, sent in from clinic for presyncope.  She woke up at 4 am 
with dry heaves, and over the course of the day of admission has 
experienced lightheadedness, failure to thrive and a presyncopal 
episode. She went to clinic, where she was given IV fluids, and 
was reportedly found to be orthostatic.  Labs showed troponin of 
1.07, CK-MB of 11. Creatinine was 2.3, bicarbonate 20.  
Hematocrit was 27.0.

Patient was recently admitted in ___ for nausea, diarrhea, 
poor PO intake and weight loss.   She had a flexible 
sigmoidoscopy and EGD with biopsy negative for GVHD.  Diarrhea 
resolved and stool cultures were negative.  Her ___ resolved w/ 
IVF. CT sinus had inflammation, and patient was given a course 
of levofloxacin for possible sinusitis.  Gastric emptying study 
was inconclusive. BCR/ABL gene rearrangment elevated from 
previous undected level to 2.013%, mycophenylate was stopped.  

Currently, patient is feeling well.  She endorses no chest pain, 
now or at the time of her symptoms.  She occasionally feels 
short of breath on exertion, but not at rest.  During her 
lightheaded episodes, she sometimes feels short of breath.  
There is no abdominal pain.  She is not currently nauseous.  
There is no palpitations.  She is currently not dizzy.

Review of Systems:  
(+) Per HPI.  
Denies fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, chest pain, 
abdominal pain, vomiting, diarrhea, constipation, BRBPR, melena, 
hematochezia, dysuria, hematuria.  
 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
- ___: Bone marrow biopsy showed myeloproliferative 
disorder, likely chronic myelogenous leukemia. Per patient 
report, began taking interferon three times weekly shortly after 
diagnosis.  
- ___: Started Gleevec 400 mg daily. At some point 
thereafter, her dose was increased to 600 mg daily  
- ___: Gleevec increased to 400 mg twice daily with 
hydroxyurea and allopurinol  
- ___: Seen at ___, found to be 
in late chronic phase CML. Stem cell transplant was recommended, 
but she did not wish to pursue this course.  
- ___: Gleevec held due to worsening anemia and 
thrombocytosis. Started on Nilotinib  
- ___: Nilotinib held due to QTC prolongation, started on 
Dasatinib  
- ___: First seen at ___. Bone marrow biopsy showed 
accelerated phase CML, began induction chemo with 7+3.  
- ___: Admission for MRD SCT  
- ___: Discharged on day +___. Transplant complicated by 
mucositis with biopsy of the esophagus suggesting upper GI GVHD 
which was treated with steroids.  
- ___ colonoscopy showing lower GI GVHD  
- ___ readmitted with recurrent aGVHD of the liver upper  
and lower GI tract in the setting of reducing immunosuppression  

- ___ Started on ponatinib 45 mg PO due to evidence of 
disease  
- ___ admitted to the hospital for fatigue and diarrhea, 
renal biopsy showed microangiopathic disease, glomerular 
sclerosing and fibrosis of kidney and GI biopsy showed shallow 
crypts that are  
typically seen with GVHD or cellcept toxicity. Her ponatinib was 
discontinued and prendisone and Cellcept doses were decreased.  
- ___ admitted for nausea, diarrhea, poor PO intake and 
weight loss. Had flex sig and EGD with biopsy negative for GVHD. 
Diarrhea resolved, stool cultures negative. ___ resolved w/ IVF. 
CT sinus had inflammation, given course of levofloxacin. Gastric 
emptying study inconclusive. BCR/ABL gene rearrangment elevated 
from previous undected level to 2.013%, mycophenylate was 
stopped.  

PAST MEDICAL/SURGICAL HISTORY:  
- CAD s/p CABG in ___  
- hypertension  
- hyperlipidemia  
- Right ankle surgery in ___  
- Total abdominal hysterectomy in ___  
- Appendectomy at age ___  
 
Social History:
___
Family History:
Father - died of MI, no other health problems  
Mother - had heart problems, DM  
No family history of cancer or blood disorders.  

 
Physical Exam:
ADMISSION PHYSICAL EXAM
VITALS - T 97.8, BP 92/55, HR 80, RR 18, O2 sat 99%RA  
GENERAL - ill-appearing female w/ alopecia in no acute distress  

HEENT - NC/AT, PERRL, EOMI, sclerae anicteric, dry mucous  
membranes w/o ulcers  
NECK - supple, no thyromegaly, no JVD, no carotid bruits  
LUNGS - Lungs are clear to ausculatation bilaterally, moving air 
 
well and symmetrically, resp unlabored, no accessory muscle use. 
 
HEART - RRR, normal S1/S2, ___ systolic flow murmur  
ABDOMEN - soft, non-distended, non-tender, +BS, no masses or 
HSM, no rebound/guarding, ecchymoses over abdomen  
EXTREMITIES - ecchymosis over extremities, hyperpigmented skin 
on dorsal bilateral hands, 2+ peripheral pulses (radials, DPs)  
NEURO - non-focal
PSYCH - appropriate

DISCHARGE PHYSICAL EXAM
VITALS - TMax 98.7, TCurr 98.0, BP 121/63, HR 83, RR 20, Sat 99% 
on RA
GENERAL - chronically ill appearing female in no acute distress  

HEENT - NC/AT, PERRL, MMM, oropharynx clear without ulcers or 
lesions  
NECK - supple, no thyromegaly, no JVD, no carotid bruits  
LUNGS - Decreased breath sounds diffusely, otherwise no wheezes, 
rales, rhonci, or egophany   
HEART - RRR, normal S1/S2, stable ___ systolic decrescendo 
murmur heard best at RUSB
ABDOMEN - soft, non-distended, non-tender, +BS, no masses or 
HSM, no rebound/guarding
EXTREMITIES - trace to 1+ ___ edema (L>R), ecchymosis over 
extremities, hyperpigmented skin on dorsal bilateral hands, 2+ 
peripheral pulses (radials, DPs), superficial 3-4cm laceration 
on right posterior upper extremity near olecranon that is 
healing well
NEURO - non-focal
PSYCH - appropriate

 
Pertinent Results:
ADMISSION LABS
--------------
___ 12:10PM BLOOD WBC-9.0# RBC-3.02* Hgb-9.1* Hct-27.2* 
MCV-90 MCH-30.2 MCHC-33.5 RDW-16.7* Plt ___
___ 12:10PM BLOOD Neuts-85* Bands-2 Lymphs-4* Monos-9 Eos-0 
Baso-0 ___ Myelos-0
___ 12:10PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-OCCASIONAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL 
Ovalocy-OCCASIONAL Tear Dr-OCCASIONAL
___ 08:00PM BLOOD ___ PTT-25.2 ___
___ 12:10PM BLOOD UreaN-36* Creat-2.3* Na-135 K-4.6 Cl-100 
HCO3-20* AnGap-20
___ 12:10PM BLOOD ALT-13 AST-26 LD(LDH)-347* CK(CPK)-281* 
AlkPhos-117* TotBili-0.4
___ 12:10PM BLOOD CK-MB-11* MB Indx-3.9 cTropnT-1.07*
___ 12:10PM BLOOD TotProt-5.1* Albumin-3.0* Globuln-2.1 
Calcium-8.6 Phos-3.3 Mg-1.3*

HOSPITAL COURSE
--------------
___ 06:30AM BLOOD WBC-2.9*# RBC-2.13*# Hgb-6.4*# Hct-19.3*# 
MCV-91 MCH-29.8 MCHC-32.9 RDW-16.9* Plt ___
___ 12:45AM BLOOD WBC-3.3* RBC-2.52* Hgb-7.4* Hct-23.1* 
MCV-92 MCH-29.3 MCHC-32.0 RDW-16.0* Plt ___
___ 05:50AM BLOOD WBC-2.8* RBC-3.02* Hgb-9.0* Hct-28.3* 
MCV-94 MCH-29.7 MCHC-31.7 RDW-15.6* Plt ___
___ 06:00AM BLOOD WBC-4.7# RBC-3.48* Hgb-10.3* Hct-32.5* 
MCV-93 MCH-29.7 MCHC-31.8 RDW-15.7* Plt ___
___ 06:25AM BLOOD WBC-4.3 RBC-3.19* Hgb-9.4* Hct-30.0* 
MCV-94 MCH-29.5 MCHC-31.4 RDW-15.8* Plt ___
___ 08:00AM BLOOD WBC-4.3 RBC-2.98* Hgb-8.9* Hct-28.1* 
MCV-94 MCH-29.8 MCHC-31.7 RDW-15.9* Plt Ct-92*
___ 06:15AM BLOOD WBC-4.0 RBC-2.84* Hgb-8.3* Hct-27.0* 
MCV-95 MCH-29.1 MCHC-30.6* RDW-15.8* Plt Ct-95*
___ 06:50AM BLOOD WBC-3.5* RBC-2.65* Hgb-7.6* Hct-24.4* 
MCV-92 MCH-28.7 MCHC-31.2 RDW-16.1* Plt Ct-93*
___ 05:55AM BLOOD WBC-4.1 RBC-2.71* Hgb-8.1* Hct-25.7* 
MCV-95 MCH-29.7 MCHC-31.4 RDW-16.3* Plt Ct-87*
___ 12:45AM BLOOD Neuts-83* Bands-1 Lymphs-5* Monos-3 Eos-0 
Baso-0 ___ Metas-4* Myelos-4*
___ 05:50AM BLOOD Neuts-81* Bands-1 Lymphs-6* Monos-5 Eos-1 
Baso-0 Atyps-1* Metas-3* Myelos-2*
___ 06:00AM BLOOD Neuts-82* Bands-0 Lymphs-5* Monos-3 Eos-0 
Baso-0 ___ Metas-4* Myelos-4* Promyel-2*
___ 06:25AM BLOOD Neuts-78* Bands-11* Lymphs-4* Monos-4 
Eos-0 Baso-0 ___ Metas-3* Myelos-0 NRBC-1*
___ 08:00AM BLOOD Neuts-82* Bands-2 ___ Monos-11 Eos-1 
Baso-0 ___ Metas-2* Myelos-2*
___ 06:15AM BLOOD Neuts-88* Bands-5 ___ Monos-3 Eos-0 
Baso-0 ___ Metas-2* Myelos-2* NRBC-1*
___ 06:50AM BLOOD Neuts-85* Bands-4 Lymphs-4* Monos-4 Eos-0 
Baso-0 ___ Metas-1* Myelos-2*
___ 05:55AM BLOOD Neuts-84* Bands-0 Lymphs-11* Monos-5 
Eos-0 Baso-0 ___ Myelos-0
___ 12:45AM BLOOD Hypochr-1+ Anisocy-1+ Poiklo-1+ 
Macrocy-1+ Microcy-NORMAL Polychr-1+ Ovalocy-1+ Schisto-1+ Tear 
Dr-1+
___ 05:50AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-2+ Microcy-NORMAL Polychr-NORMAL
___ 06:00AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 06:25AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-NORMAL 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 08:00AM BLOOD Hypochr-2+ Anisocy-1+ Poiklo-1+ 
Macrocy-1+ Microcy-NORMAL Polychr-NORMAL Ovalocy-1+
___ 06:15AM BLOOD Hypochr-NORMAL Anisocy-OCCASIONAL 
Poiklo-OCCASIONAL Macrocy-OCCASIONAL Microcy-NORMAL 
Polychr-NORMAL Tear Dr-OCCASIONAL
___ 06:50AM BLOOD Hypochr-1+ Anisocy-1+ Poiklo-OCCASIONAL 
Macrocy-1+ Microcy-NORMAL Polychr-NORMAL Tear Dr-OCCASIONAL
___ 05:55AM BLOOD Hypochr-1+ Anisocy-NORMAL Poiklo-NORMAL 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 12:45AM BLOOD ___ PTT-26.4 ___
___ 05:50AM BLOOD ___ PTT-29.8 ___
___ 06:05AM BLOOD ___ PTT-26.3 ___
___ 06:30AM BLOOD Glucose-92 UreaN-36* Creat-2.3* Na-135 
K-3.7 Cl-104 HCO3-21* AnGap-14
___ 12:45AM BLOOD Glucose-122* UreaN-38* Creat-2.3* Na-139 
K-4.0 Cl-107 HCO3-24 AnGap-12
___ 05:50AM BLOOD Glucose-89 UreaN-37* Creat-2.0* Na-137 
K-3.7 Cl-106 HCO3-22 AnGap-13
___ 06:00AM BLOOD Glucose-84 UreaN-35* Creat-1.9* Na-136 
K-3.7 Cl-103 HCO3-21* AnGap-16
___ 06:25AM BLOOD Glucose-85 UreaN-35* Creat-1.8* Na-135 
K-3.7 Cl-106 HCO3-20* AnGap-13
___ 08:00AM BLOOD Glucose-84 UreaN-32* Creat-1.9* Na-134 
K-3.9 Cl-105 HCO3-21* AnGap-12
___ 06:15AM BLOOD Glucose-99 UreaN-33* Creat-1.9* Na-133 
K-4.4 Cl-104 HCO3-18* AnGap-15
___ 06:50AM BLOOD Glucose-93 UreaN-36* Creat-1.6* Na-137 
K-4.0 Cl-105 HCO3-20* AnGap-16
___ 05:55AM BLOOD Glucose-92 UreaN-41* Creat-1.9* Na-138 
K-4.2 Cl-107 HCO3-22 AnGap-13
___ 12:45AM BLOOD ALT-13 AST-20 LD(LDH)-202 AlkPhos-89 
TotBili-0.2
___ 05:50AM BLOOD ALT-15 AST-20 LD(___)-211 AlkPhos-110* 
TotBili-0.2
___ 06:00AM BLOOD ALT-16 AST-30 LD(___)-236 AlkPhos-200* 
TotBili-0.3
___ 06:25AM BLOOD ALT-13 AST-30 LD(___)-284* AlkPhos-182* 
TotBili-0.2
___ 08:00AM BLOOD ALT-13 AST-26 LD(___)-205 CK(CPK)-138 
AlkPhos-210* TotBili-0.2
___ 06:15AM BLOOD ALT-9 AST-30 LD(___)-290* AlkPhos-172* 
TotBili-0.3
___ 06:50AM BLOOD ALT-16 AST-25 LD(___)-245 AlkPhos-166* 
TotBili-0.2
___ 12:10PM BLOOD CK-MB-11* MB Indx-3.9 cTropnT-1.07*
___ 08:00PM BLOOD CK-MB-11* MB Indx-6.1* cTropnT-0.89*
___ 06:30AM BLOOD CK-MB-9 cTropnT-0.90*
___ 12:45PM BLOOD CK-MB-12* cTropnT-0.91*
___ 06:30AM BLOOD Folate-5.5 Hapto-264*
___ 12:45AM BLOOD %HbA1c-5.6 eAG-114
___ 12:45AM BLOOD Triglyc-349* HDL-33 CHOL/HD-6.6 
LDLcalc-114
___ 06:30AM BLOOD TSH-3.3
___ 06:30AM BLOOD IgG-398*
___ 06:05AM BLOOD WBC-4.8 RBC-2.74* Hgb-8.4* Hct-26.3* 
MCV-96 MCH-30.5 MCHC-31.9 RDW-17.0* Plt ___
___ 06:05AM BLOOD Neuts-91.6* Lymphs-3.3* Monos-3.6 Eos-1.0 
Baso-0.4
___ 06:05AM BLOOD Glucose-83 UreaN-50* Creat-2.1* Na-139 
K-4.7 Cl-105 HCO3-24 AnGap-15
___ 06:05AM BLOOD ALT-23 AST-42* LD(LDH)-214 AlkPhos-169* 
TotBili-0.3
___ 06:05AM BLOOD Calcium-8.9 Phos-5.6* Mg-1.7
___ 08:50AM BLOOD WBC-4.2 RBC-2.54* Hgb-7.7* Hct-24.5* 
MCV-96 MCH-30.2 MCHC-31.4 RDW-17.1* Plt ___
___ 06:25AM BLOOD WBC-4.2 RBC-2.53* Hgb-7.8* Hct-23.8* 
MCV-94 MCH-31.0 MCHC-33.0 RDW-17.1* Plt ___
___ 06:25AM BLOOD WBC-7.8# RBC-3.15* Hgb-9.4* Hct-29.6* 
MCV-94 MCH-29.9 MCHC-31.8 RDW-17.2* Plt ___
___ 02:33AM BLOOD WBC-6.3 RBC-2.67* Hgb-7.8* Hct-25.2* 
MCV-94 MCH-29.1 MCHC-30.9* RDW-17.5* Plt ___
___ 02:37AM BLOOD WBC-7.7 RBC-3.04* Hgb-8.9* Hct-28.5* 
MCV-94 MCH-29.2 MCHC-31.1 RDW-18.2* Plt ___
___ 12:02AM BLOOD WBC-10.0 RBC-3.32* Hgb-9.8* Hct-30.7* 
MCV-93 MCH-29.7 MCHC-32.0 RDW-18.3* Plt ___
___ 02:50AM BLOOD WBC-10.7 RBC-3.46* Hgb-10.0* Hct-31.4* 
MCV-91 MCH-29.0 MCHC-31.9 RDW-18.3* Plt ___
___ 02:55AM BLOOD WBC-9.9 RBC-3.23* Hgb-9.6* Hct-28.8* 
MCV-89 MCH-29.6 MCHC-33.2 RDW-18.5* Plt ___
___ 12:00AM BLOOD WBC-8.9 RBC-3.20* Hgb-9.3* Hct-29.6* 
MCV-93 MCH-29.1 MCHC-31.4 RDW-18.5* Plt ___
___ 12:20AM BLOOD WBC-5.9 RBC-2.88* Hgb-8.6* Hct-26.0* 
MCV-90 MCH-30.0 MCHC-33.1 RDW-18.4* Plt ___
___ 12:00AM BLOOD WBC-4.7 RBC-2.51* Hgb-7.4* Hct-23.2* 
MCV-93 MCH-29.7 MCHC-32.0 RDW-18.5* Plt Ct-98*
___ 12:09AM BLOOD WBC-4.0 RBC-2.37* Hgb-7.1* Hct-21.4* 
MCV-90 MCH-30.2 MCHC-33.4 RDW-18.4* Plt Ct-92*
___ 12:06PM BLOOD Hct-23.7*
___ 12:00AM BLOOD WBC-4.7 RBC-2.51* Hgb-7.4* Hct-23.2* 
MCV-93 MCH-29.7 MCHC-32.0 RDW-18.5* Plt Ct-98*
___ 12:00AM BLOOD WBC-5.8 RBC-2.57* Hgb-7.4* Hct-24.0* 
MCV-93 MCH-29.0 MCHC-31.1 RDW-18.5* Plt ___
___ 02:37AM BLOOD Neuts-96* Bands-0 ___ Monos-1* Eos-0 
Baso-0 Atyps-1* Metas-2* Myelos-0
___ 02:55AM BLOOD Neuts-90* Bands-1 Lymphs-3* Monos-2 Eos-1 
Baso-0 ___ Metas-2* Myelos-1* NRBC-1*
___ 12:00AM BLOOD Neuts-86* Bands-1 Lymphs-2* Monos-1* 
Eos-3 Baso-0 ___ Metas-5* Myelos-2*
___ 12:09AM BLOOD Neuts-93* Bands-0 Lymphs-4* Monos-3 Eos-0 
Baso-0 ___ Myelos-0
___ 12:20AM BLOOD Neuts-89.3* Lymphs-3.9* Monos-5.7 Eos-0.9 
Baso-0.3
___ 12:00AM BLOOD Neuts-90.7* Lymphs-5.0* Monos-3.2 Eos-0.8 
Baso-0.3
___ 06:25AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-NORMAL 
Macrocy-NORMAL Microcy-1+ Polychr-NORMAL
___ 02:50AM BLOOD Hypochr-1+ Anisocy-2+ Poiklo-1+ 
Macrocy-1+ Microcy-1+ Polychr-1+ Spheroc-1+ Ovalocy-1+ 
Schisto-1+ Tear Dr-1+
___ 02:55AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-NORMAL 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 12:00AM BLOOD Hypochr-2+ Anisocy-1+ Poiklo-1+ 
Macrocy-1+ Microcy-NORMAL Polychr-1+ Ovalocy-1+ Schisto-1+ Tear 
Dr-1+
___ 08:55PM BLOOD ___ PTT-27.5 ___
___ 02:33AM BLOOD ___ PTT-26.8 ___
___ 12:00AM BLOOD ___ PTT-30.9 ___
___ 12:06PM BLOOD ___ PTT-36.8* ___
___ 06:25AM BLOOD Glucose-86 UreaN-69* Creat-2.3* Na-145 
K-4.3 Cl-109* HCO3-22 AnGap-18
___ 06:27PM BLOOD Glucose-174* UreaN-74* Creat-2.8* Na-142 
K-5.6* Cl-107 HCO3-20* AnGap-21*
___ 02:33AM BLOOD Glucose-100 UreaN-77* Creat-2.9* Na-140 
K-5.4* Cl-106 HCO3-22 AnGap-17
___ 02:37AM BLOOD Glucose-105* UreaN-81* Creat-2.9* Na-142 
K-5.3* Cl-107 HCO3-19* AnGap-21*
___ 12:02AM BLOOD Glucose-122* UreaN-89* Creat-3.0* Na-143 
K-4.9 Cl-108 HCO3-20* AnGap-20
___ 02:50AM BLOOD Glucose-103* UreaN-82* Creat-2.7* Na-143 
K-4.3 Cl-109* HCO3-21* AnGap-17
___ 02:55AM BLOOD Glucose-93 UreaN-76* Creat-2.5* Na-143 
K-4.0 Cl-107 HCO3-23 AnGap-17
___ 12:00AM BLOOD Glucose-114* UreaN-64* Creat-2.4* Na-141 
K-3.5 Cl-103 HCO3-24 AnGap-18
___ 12:09AM BLOOD Glucose-110* UreaN-58* Creat-2.1* Na-139 
K-3.7 Cl-104 HCO3-25 AnGap-14
___ 12:00AM BLOOD Glucose-50* UreaN-50* Creat-2.0* Na-145 
K-3.8 Cl-109* HCO3-25 AnGap-15
___ 12:20AM BLOOD Glucose-108* UreaN-46* Creat-1.8* Na-138 
K-3.3 Cl-105 HCO3-25 AnGap-11
___ 12:00AM BLOOD Glucose-103* UreaN-44* Creat-1.9* Na-137 
K-4.5 Cl-106 HCO3-23 AnGap-13
___ 06:30AM BLOOD ALT-26 AST-38 LD(LDH)-239 CK(CPK)-208* 
AlkPhos-184* TotBili-0.3
___ 06:25AM BLOOD ALT-27 AST-44* LD(LDH)-270* CK(CPK)-143 
AlkPhos-171* TotBili-0.4
___ 06:25AM BLOOD ALT-213* AST-198* LD(LDH)-414* 
CK(CPK)-137 AlkPhos-351* TotBili-0.5
___ 02:33AM BLOOD ALT-189* AST-126* LD(LDH)-344* 
CK(CPK)-112 AlkPhos-243* TotBili-0.4
___ 12:02AM BLOOD ALT-187* AST-111* AlkPhos-343* 
TotBili-0.7
___ 11:48AM BLOOD ALT-115* AST-76* LD(___)-477* 
AlkPhos-392* TotBili-0.7
___ 12:00AM BLOOD ALT-63* AST-41* LD(___)-449* CK(CPK)-131 
AlkPhos-299* TotBili-0.7
___ 12:00AM BLOOD ALT-41* AST-43* LD(___)-428* CK(CPK)-235* 
AlkPhos-263* TotBili-0.4
___ 12:20AM BLOOD ALT-23 AST-36 LD(___)-332* AlkPhos-196* 
TotBili-0.4
___ 12:09AM BLOOD ALT-31 AST-54* LD(___)-319* AlkPhos-199* 
TotBili-0.4
___ 12:20AM BLOOD ALT-27 AST-35 LD(___)-310* AlkPhos-182* 
TotBili-0.5
___ 12:00AM BLOOD ALT-26 AST-29 LD(LDH)-302* AlkPhos-184* 
TotBili-0.4
___ 06:25AM BLOOD CK-MB-12* MB Indx-8.8 cTropnT-0.93*
___ 06:27PM BLOOD CK-MB-12* cTropnT-1.08*
___ 02:33AM BLOOD CK-MB-10 MB Indx-8.9* cTropnT-0.99*
___ 04:26PM BLOOD CK-MB-9 cTropnT-0.97*
___ 02:37AM BLOOD CK-MB-9
___ 02:55AM BLOOD cTropnT-0.94*
___ 06:30AM BLOOD Calcium-9.1 Phos-5.4* Mg-1.9
___ 06:27PM BLOOD Calcium-8.7 Phos-6.1*# Mg-2.0
___ 02:37AM BLOOD Calcium-8.9 Phos-7.0* Mg-2.2
___ 02:50AM BLOOD Albumin-3.1* Calcium-9.0 Phos-4.4# Mg-2.2 
UricAcd-15.2*
___ 11:48AM BLOOD UricAcd-14.7*
___ 06:10PM BLOOD Albumin-2.9* Calcium-8.6 Phos-4.2 Mg-2.0 
UricAcd-14.2*
___ 11:00PM BLOOD UricAcd-7.8*
___ 02:55AM BLOOD Albumin-3.0* Calcium-8.9 Phos-4.3 Mg-2.0 
UricAcd-4.2
___ 12:00AM BLOOD Calcium-8.8 Phos-4.4 Mg-1.8 UricAcd-0.1*
___ 12:20AM BLOOD Calcium-8.1* Phos-5.4* Mg-2.1
___ 12:20AM BLOOD Calcium-8.3* Phos-3.9 Mg-2.2
___ 11:20AM BLOOD UricAcd-7.5*
___ 11:33AM BLOOD Type-ART pO2-174* pCO2-34* pH-7.36 
calTCO2-20* Base XS--5
___ 09:12PM BLOOD ___ pO2-40* pCO2-42 pH-7.34* 
calTCO2-24 Base XS--2 Comment-PERIPHERAL
___ 08:30AM BLOOD Type-ART pO2-225* pCO2-33* pH-7.43 
calTCO2-23 Base XS-0 Intubat-INTUBATED
___ 11:33AM BLOOD Lactate-3.0*
___ 07:06PM BLOOD Lactate-1.1
___ 08:30AM BLOOD Lactate-1.0

DISCHARGE LABS
--------------
___ 06:25AM BLOOD WBC-5.1 RBC-2.77* Hgb-8.6* Hct-25.7* 
MCV-93 MCH-31.1 MCHC-33.5 RDW-18.0* Plt ___
___ 06:25AM BLOOD Neuts-90.3* Lymphs-3.9* Monos-3.4 Eos-2.2 
Baso-0.2
___ 06:25AM BLOOD Glucose-85 UreaN-41* Creat-1.8* Na-141 
K-3.9 Cl-108 HCO3-21* AnGap-16
___ 06:25AM BLOOD ALT-25 AST-30 LD(LDH)-279* AlkPhos-162* 
TotBili-0.4
___ 06:25AM BLOOD Calcium-8.8 Phos-4.0 Mg-2.3

MICRO
-----
___ HHV6 PCR Negative
___ Parvovirus B19 PCR Negative
___ EBV PCR ___ CMV PCR negative
___ BCR/ABL gene rearrangement 2.821

IMAGING
-------
TTE ___
IMPRESSION: Hyperdynamic left ventricular systolic function. No 
clinically significant valvular regurgitation or stenosis. 
Indeterminate pulmonary artery systolic pressure. Suggestion of 
pulmonary artery diastolic hypertension.  Compared with the 
prior study (images reviewed) of ___, the left ventricular 
systolic function is now hyperdynamic (LVEF previously 55-60%). 

Pharmacological Stress MIBI ___
INTERPRETATION: Left ventricular cavity size is normal.  Rest 
and stress perfusion images reveal uniform tracer uptake 
throughout the left ventricular myocardium.  Gated images reveal 
normal wall motion. Septal wall motion compatible with prior 
CABG.  The calculated left ventricular ejection fraction is 65% 
post stress.
IMPRESSION: Normal myocardial perfusion study.

CT Abdomen/Pelvis ___
IMPRESSION:
1. No evidence of PTLD.  
2. Soft tissue nodules in the left lower quadrant most likely 
represent the sequela of subcutaneous injections.

CT Chest ___
IMPRESSION:
1. As compared to ___, no lung nodules have newly 
appeared.  The
pre-existing lung nodules, including the minimal ground-glass 
nodules in the upper lobe, are all constant, unsuspicious in 
morphology.  If the patient is not at high risk for cancer, the 
lesions do not require further followup, given that their 
dimension is below 4 mm.
2.  Status post CABG, no lymphadenopathy, no pleural effusions.

CXR ___
ET tube is in a standard position.  NG tube tip is out of view 
below the 
diaphragm.  Cardiomegaly is stable.  Increasing opacities in the 
right 
perihilar region and right lower lobe are worrisome for 
worsening pneumonia.  Component of pulmonary edema is stable.  
Left lower lobe pneumonia is stable.  There is no pneumothorax 
or large pleural effusion.  There are low lung volumes with 
stable widened mediastinum  due to engorgement of vessels. 

CXR ___:
The patient is currently not intubated.  The right internal 
jugular line tip is at the right atrium and should be pulled 
back approximately 3 cm.  Heart size and mediastinum are stable. 
 Lungs are essentially clear.  No pleural effusion or 
pneumothorax is appreciated, although cannot be entirely 
excluded. 

Muscle Biopsy ___:  Final Report Pending

CT Chest Without Contrast ___:  Newly appeared massive 
bilateral opacities, predominantly ground-glass in attenuation, 
with subtle areas of consolidation.  Accompanying airways 
disease and small pleural effusions with atelectasis. 

EMG ___:  Abnormal study. There is electrophysiologic 
evidence for a moderate, generalized myopathic process with 
denervating features. In addition, the data are suggestive of a 
moderate, generalized, axonal, sensorimotor polyneuropathy. 
Based on the limited repetitive stimulation studies performed, 
there is no evidence for a disorder of neuromuscular junction 
transmission, including myasthenia ___. Compared to the 
previous study dated ___, there has been an improvement 
in motor response amplitudes and worsening in sensory response 
amplitudes.  

 

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE:  

Ms. ___ is a ___ y/o F with history of accelerated phase CML 
s/p sibling allo transplant on ___ complicated by upper and 
lower GI GVHD ___, liver GVHD in setting of reducing 
immunosuppression ___, GVHD related myopathy resulting in 
weakness and respiratory failure ___ who presented for 
presyncope. Her lightheadedness improved significantly with IV 
fluids and she had no further episodes of presyncope. She had 
elevated creatinine above baseline that resolved with IV fluids. 
She was found to have an elevated troponin that trended down 
thought to be likely due to demand ischemia in the setting of 
anemia in addition to poor clearance in the setting of acute on 
chronic kidney injury. Her BCR-ABL load was elevated compared to 
prior levels and her prednisone immunosuppression was decreased 
to improve control of her CML. She was also found to have an 
elevated EBV viral load with concern for PTLD/lymphoma and had a 
CT Torso which showed no evidence of PTLD. She received 1 dose 
of rituximab on ___ and tolerated well.

On reduction of the pt.'s prednisone, she developed severe 
myalgias and respiratory distress thought to be ___ muscle 
weakness, hypervolemia, and flash pulmonary edema with BPs in 
220s/110s. She was transferred to the ICU, required intubation, 
and was diuresed.  She was extubated and her respiratory status 
returned to baseline. She was found to have both a new 
consolidation on CXR evaluated by both the pulmonary service and 
infectious disease service who both recommended a course of 
antibiosis for HCAP. She also had an elevated troponin during 
this episode. Cardiology evaluated pt and determined her to have 
an NSTEMI in the setting of elevated troponin and new focal wall 
motion abnormality on echocardiogram. She continued to have 
myalgias and had a muscle biopsy and EMG to better assess the 
cause of her myalgias. ___ results indicate no signs of 
active GVHD or GVHD myasthenia ___. Final results are 
pending. She remained hemodynamically stable and was discharged 
to rehab on her admission dose of prednisone.
 
ACTIVE ISSUES

# Acute Myalgias and Muscle Weakness:  On admission, pt. reports 
diffuse muscle weakness and myalgias.  Following reduction of 
prednisone from alternating 15mg/20mg daily, pt. had significant 
worsening of symptoms.  CK was mildly elevated.  For concern of 
worsening symptoms ___ to ongoing levofloxacin (has been 
associated with increased risk of tenosynovitis in pt.'s on 
chronic steroids), this medication was discontinued.  An EMG was 
done showing no evidence of GVHD induced myasthenia ___.  
___ muscle biopsy performed on ___ of the left biceps 
femoris biopsy returned negative for any evidence of 
inflammation.  The most likely etiology of the patient's 
symptoms were thought to be ___ profound deconditioning with a 
possible component of steroid induced myopathic fibroatrophy 
given ongoing steroids over the last ___ years.  GVHD less likely 
given no evidence of myositis on ___ path, although pt.'s 
physical exam is somewhat consistent with chronic GVHD. 

# Respiratory Failure:  Following reduction of patient's 
steroids, pt. developed profound muscle weakness.  In this 
setting, she became hypoxic and later hypertensive with BPs in 
220s/110s.  She had a presumed episode of flash pulmonary edema 
which resulted in her transfer to the ICU and subsequent 
intubation.  Pt. was diuresed significantly and extubated 
without issue.  She was thought to be volume overloaded 
secondary to initial resuscitation following her pre-syncopal 
presentation.  Pt. continued to respond well to diuresis and was 
transferred back to the medical floor.

# Hospital Acquired Pneumonia:  Pt. had a new consolidation on 
CXR on this admission.  Started on HCAP coverage with 
vanc/meropenem.  The patient initially responded well and was 
d/c'ed off vanc.  Given concern for worsening pneumonia and 
respiratory distress, pulmonary was consulted for possible 
bronchoscopy.  ___ then recommended cardiology evaluation given 
ongoing elevated troponin and question of ischemic changes seen 
on TTE and EKG.  ID also saw pt. and recommended continuation of 
levofloxacin for total of 5 day course for atypical coverage and 
meropenem for total of 8 day course.  For concern that 
levofloxacin was contributing to pt.'s myalgias/ tendonitis, pt. 
was discontinued 1 day earlier than completion of full course.  
At time of discharge, pt. had ongoing improving cough.  She had 
a repeat CXR (___) negative for consolidation or pulmonary 
edema.  

# NSTEMI:  In the setting of episode of flash pulmonary edema, 
pt. had an elevated troponin.  Cardiology evaluated the patient 
who recommended a repeat TTE which revealed showed decrease in 
EF to 40% and akinesis of the anteroseptal wall.  Given her 
known CAD, this was thought to most likely be related to either 
a type 1 primary coronary event or type 2 demand ischemia in the 
setting of recent hypertensive emergency and flash pulmonary 
edema.  Given that pt. was a poor cath candidate with ongoing 
acute on chronic kidney injury, will proceed with medical 
optimization at this time.  As such, pt. was discharged on ASA 
81mg Daily, metoprolol and amlodipine for afterload reduction.  
A statin was held at this time given ongoing myalgias.  Her 
losartan was held for resolving acute on chronic kidney injury.  


# Admission Troponin elevation:  Pt. had admission Troponin peak 
at 1.07, CK-MB 11. Patient did not have chest pain at this time, 
but did report dizziness and dyspnea which may be her anginal 
equivalent. ECG on admission was not suggestive of ischemia.  
Pt. evaluated for ACS but noted to have downtrending trops in 
setting of resolving anemia and resolving acute on chronic 
kidney injury.  Initial TTE showed hyperdynamic function 
consistent with her volume depleted status.  In the setting of 
known CAD, pt. also had a persantine stress MIBI which was 
negative for evidence of malperfusion/ischemia.  Likely cause of 
admission troponin elevation was thought to be due to demand 
ischemia in the setting of anemia in addition to poor clearance 
in the setting of acute on chronic kidney injury.  

# Poor appetite:  Patient not taking good PO at home. Signs of 
anasarca on exam with diffuse dependent edema.  Pt. states that 
she is eating more on this hospitalization compared to any other 
time recently.  Denies nausea/vomiting, abdominal symptoms, 
diarrhea.  Pt. was started on marinol for appetite stimulation 
but developed excess sedation.  This medication was 
discontinued. 

# Anemia:  On admission, pt. found to have Hct drop from 27 to 
19.  She received fluids in clinic of unknown quantity.  No 
history of bleeding.  Anemia work-up was negative for hemolysis 
with normal TSH level.  Pt. did have a retic count which was low 
given the level of anemia consistent with decreased production 
likely ___ pt's CML.  Her Hct remained stable after initial 
transfusion throughout the remainder of admission.

# Presyncope/lightheadedness:  Pt. presented with orthostatic 
hypotension in the setting of poor PO intake and ongoing 
antihypertensive/diuretic therapy making hypovolemia the most 
likely etiology. Given troponin elevation, considered cardiac 
etiology however stress MIBI negative.  Her lightheadedness 
resolved after giving IV fluids.  Her home furosemide and 
amlodipine were discontinued.  The patient was discharged on a 
reduced hypertensive regimen as described in transitional 
issues. 

# Acute on chronic kidney injury:  On admission, pt. was found 
to have creatinine elevated to 2.6 from baseline of 1.5 to 2.0.  
Likely pre-renal given hypovolemia with orthostasis.  She 
received IV fluids and her creatinine returned to baseline.  Pt. 
then had second episode of acute on chronic kidney injury ___ 
poor forward flow in the setting of flash pulmonary edema and 
NSTEMI.  Her renal function returned to baseline with diuresis.  
She was noted to have an elevated uric acid at this time which 
dramatically decreased following one dose of rasburicase. 

# CML
Accelerated phase CML s/p sibling allo D0 ___ now relapsed 
CML.  BCR-ABL returned slightly elevated compared to prior.  We 
continued prophylaxis on home acyclovir, atovaquone, fluconazole 
at renal dosing.  Her prednisone was attempted to be reduced to 
15mg daily to improve control of CML with evidence of increasing 
BCR-ABL.  The pt. did not tolerate this as above.  She has a 
repeat BCR ABL and kinase domain mutation pending.  TKI should 
be considered as an outpatient.

# Elevated EBV Viral Load
EBV was elevated on last admission and more elevated on this 
admission.  HHV6/Parvo B19 negative.  For concern of 
PTLD/lymphoma, pt. was evaluated with CT Torso which showed no 
evidence of PTLD.  Pt. given 1 dose of rituximab on ___ and 
tolerated it well.  

# Sinusitis 
Pt. received course of levofloxacin with resolution of symptoms.

CHRONIC ISSUES
# Hypertension:  Stable.  Continued altered regimen as described 
above.

# Hyperlipidemia
Stable.  Not currently on therapy at this time

# Coronary artery disease 
Stable.  Will continue home aspirin and antihypertensives as 
above.

TRANSITIONAL ISSUES:

1. Heme/Onc Follow-Up: Pt. requires follow-up with Dr. ___ on 
___ and ___. 

2. NSTEMI Follow-Up: Pt. requires follow-up with cardiology in 
___ weeks from discharge. She also should have a repeat TTE 
shortly prior to this visit. She has an appt. with cardiology on 
___.

3. Lab Work: Pt. does have chronic anemia and thrombocytopenia 
secondary to her CML. Pt. should receive labs every other day 
(CBC with diff, Chem 10, ALT, AST, Alk Phos, TBili, LDH, ___, 
PTT, INR) while at rehab. Lab results should be faxed to Dr. 
___ office at ___.

4. Hypertension Regimen: Pt. presented with orthostasis thought 
to be ___ both poor PO intake and strict blood pressure control. 
She also had an NSTEMI while hospitalized. Pt. was discontinued 
off of her daily losartan for ongoing renal dysfunction. 
Metoprolol XL was reduced to 250mg Daily from 300mg Daily. She 
was continued on amlodipine 5mg PO Daily. Furosemide was 
continued at 20mg PO Daily. Pt's standing weight at discharge 
was 139 lbs. Pt's medications should be titrated appropriately 
to HR and BP. Her losartan should also be restarted if possible 
if close monitoring is available, in place of amlodipine if 
amlodipine if not needed for blood pressure control.

5. Immunosuppression and steroid taper: Pt. was unable to 
tolerate prednisone taper as she had significant exacerbation of 
myopathy and muscle weakness. As such, she was continued on her 
admission dose of alternating daily doses of prednisone 
15mg/20mg. If attempting to reduce prednisone in future, please 
reduce on slow taper, consider ___ / week as tolerated and 
closely monitor symptoms. 

6. Poor Nutrition: Pt. has mild anasarca likely in part due to 
poor nutrition partially caused by decreased appetite and 
nausea. Pt. was started on dronabinol to improve these symptoms, 
however she became sedated. This medication was not continued at 
discharge. She was continued on furosemide prn for management of 
fluid volume.

7. Tyrosine Kinase Inhibitor: Given increase CML disease 
activity, possible use of TKI should be discussed with Dr. 
___. Ponatinib has been associated with increased incidence 
of cardiac events and should be avoided in this pt. with known 
CAD and now recent NSTEMI. Desatinib may be a better option but 
was not initiated at time of discharge. Consider slow 
uptitration of dosage starting at 20mg as pt. tolerates.

8. Levofloxacin: Pt. was discontinued off of levofloxacin as 
this medication was associated with worsening myalgias in this 
pt. Please avoid fluoroquinolone class if possible as this seems 
to worsen her myalgias. There also is a high risk of 
tenosynovitis with these abx. in pt.'s on chronic steroids. 

9. Statin: Given pt's known CAD and NSTEMI on this admission, 
pt. would benefit from a statin. Pt. was not initiated on this 
hospitalization given myalgias.

10. Steroids and Osteopenia: Pt. had a bone scan in ___ 
revealing osteopenia. Given her chronic steroid use, please 
consider every ___ month bone scans.

11. Access Issues: Vascular access and lab draws have been a 
challenge as an inpatient. Additionally, pt. has coagulopathy 
likely ___ chronic steroid use resulting in diffuse ecchymosis 
from minimal skin injury. Given upcoming treatments and likely 
multiple hospitalizations, pt. may benefit from Port vs. PICC 
placement.

12. Pulm Follow-Up: Pt. was evaluated by the pulmonary consult 
team who recommended repeat chest CT 4 weeks from ___ to 
evaluate for resolution of pneumonia. If pt. has new symptoms, 
chest CT should be considered prior to this time. If resolution, 
no pulmonary follow-up is necessary. This can be coordinated 
with Dr. ___. 

13. Pending Labs: Pt. has BCR ABL and Domain Kinase mutation lab 
pending. This should be follow-up by Dr. ___.

14. Uric Acid: Pt. had elevated uric acid level on admission. We 
did not start allopurinol at this time given resolving kidney 
dysfunction. Consider starting allopurinol as an outpatient.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q8H 
2. Amlodipine 5 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Atovaquone Suspension 1500 mg PO DAILY 
5. Calcium Carbonate 500 mg PO BID 
6. Furosemide 20 mg PO DAILY 
7. Metoprolol Succinate XL 300 mg PO DAILY 
8. Omeprazole 20 mg PO DAILY 
9. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
10. Vitamin D 50,000 UNIT PO 1X/WEEK (WE) 
11. albuterol sulfate 90 mcg/actuation Inhalation 1 puff TID prn 
SOB, wheezing 
12. magnesium oxide-Mg AA chelate 133 mg Oral BID 
13. PredniSONE 15 mg PO 3X/WEEK (___) 
14. PredniSONE 20 mg PO 4X/WEEK (___) 
15. Losartan Potassium 100 mg PO DAILY 
16. Levofloxacin 750 mg PO Q48H 
 
Discharge Medications:
1. albuterol sulfate 90 mcg/actuation Inhalation 1 puff TID prn 
SOB, wheezing 
2. Vitamin D 50,000 UNIT PO 1X/WEEK (WE) 
3. Multivitamins W/minerals 1 TAB PO DAILY 
4. Magnesium Oxide 400 mg PO BID 
5. Fluconazole 200 mg PO Q24H 
6. PredniSONE 15 mg PO 3X/WEEK (___) 
7. PredniSONE 20 mg PO 4X/WEEK (___) 
8. Amlodipine 5 mg PO DAILY 
9. Aspirin 81 mg PO DAILY 
10. Atovaquone Suspension 1500 mg PO DAILY 
11. Calcium Carbonate 500 mg PO BID 
12. Furosemide 20 mg PO DAILY 
13. Acyclovir 400 mg PO Q12H 
14. Metoprolol Succinate XL 250 mg PO DAILY 
15. Benzonatate 100 mg PO TID:PRN Cough 
16. Guaifenesin ___ mL PO Q6H:PRN cough 
17. Heparin 5000 UNIT SC TID 
18. Miconazole Powder 2% 1 Appl TP TID:PRN Breast Discomfort 
19. Pantoprazole 40 mg PO Q12H 
20. Vitamin E 400 UNIT PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis: 
1.  Accelerated Phase CML
2.  Acute on Chronic Renal Failure 
3.  Pre-syncope
4.  Sinusitis
5.  Anasarca
6.  NSTEMI
7.  Hospital Acquired Pneumonia

Secondary Diagnosis:
1.  Multi-System Graph Versus Host Disease
2.  Hypertension
3.  Hyperlipidemia
4.  Coronary Artery Disease
5.  Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at the ___ 
___.  You were admitted to the hospital 
because you felt as though you were going to faint and were not 
eating or drinking well.  You received fluids through your IV 
and your lightheadedness improved.  You also had worsening 
kidney function likely due initially to poor oral intake and 
later to heart dysfunction.  Your heart enzymes were found to be 
elevated both on admission and during your hospitalization.  The 
ultrasound of your heart initially was normal as well as a 
stress test.  A repeat ultrasound did show some wall damage 
indicating that you most likely had a small heart attack.  
Additionally, your EBV virus level was high.  You received one 
dose of rituximab to treat the EBV virus.

You prednisone dose was decreased to help improve control of 
your CML.  However, you developed worsening muscle pain and 
required help breathing with an airway tube in the Intensive 
Care Unit.  We removed excess fluid which improved your 
breathing.  You were also found to have a pneumonia at this time 
which was treated with antibiotics.  We obtained a muscle biopsy 
and an EMG to better assess your muscle pain.  These tests are 
currently pending.  Your condition improved and you were 
discharged with close follow-up.

All the best,

Your ___ Team    
 
Followup Instructions:
___